### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): local sites

### PR DESCRIPTION
**Pull request by peabrainiac**
A local site is a site with a terminal object whose only covering sieve is the trivial one. We define local sites, construct a functor `coconstantSheaf` on them that is right-adjoint to the global sections functor, and prove that this functor and hence also the constant sheaf functor are fully faithful.

---

A previous iteration of this was in #22817 already, but never got merged; this PR is based not directly on that version but on https://peabrainiac.github.io/lean-catdg/docs/CatDG/ForMathlib/LocalSite.html which I had developed a bit more since. Not all features from that file are included here to keep the PR small (in particular, I've left out the construction of the `localTopology` and proof that a site is local iff it is contained in that), but I did include some naming changes and `IsLocalSite.tfae` which was not in the previous PR.

Another difference is that `Presheaf.coconst` is now constructed explicitly instead of as a composition of several standard functors. @chrisflav I briefly asked you about this earlier, and you said that you preferred the construction as a composition, but after trying both approaches I came to the conclusion that the explicit approach is a lot more workable - the reason for this is that `Presheaf.coconst.obj A` sends each object `X` of the site to the type of functions `(⊤_ C ⟶ X) → A`, and it is important to be able to work with these functions explicitly. Defining `Presheaf.coconst` in terms of `yoneda` and `coyoneda` previously worked for this because morphism types in `Type` were defeq to function types, but since a recent refactor they aren't anymore, which adds yet another source of friction in addition to the two `ULift`s that that definition inserts. I think even though that definition was elegant/nice, it is more important that `Presheaf.coconst`  evaluates up to defeq to types of functions and not morphism types involving two `ULift`s.

- [x] depends on: #41150
- [x] depends on: #41202

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
Now that we have an API for fiber functors, I think we should use it.
If you import `Mathlib.CategoryTheory.Sites.Point.OfIsCofiltered`, then the following compiles:
```lean
noncomputable def LocalSite.point
    [LocallySmall.{w} C] [J.IsLocalSite] : Point.{w} J :=
  Point.ofIsCofiltered (N := Discrete (PUnit.{w + 1}))
    (Discrete.functor (fun _ ↦ ⊤_ C)) (by
      rintro X S hS ⟨⟨⟩⟩ (f : ⊤_ C ⟶ X)
      exact ⟨_, _, LocalSite.from_terminal_mem_of_mem J f hS, ⟨.unit⟩, 𝟙 _, 𝟙 _, by simp⟩)
```
The corresponding fiber functor identifies to the global section functors, and the right adjoint functor (the skyscraper sheaf functor) is defined in `Mathlib/CategoryTheory/Sites/Point/Skyscraper.lean`.

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 1]
```diff
@@ -0,0 +1,224 @@
...
+    {X : Cᵒᵖ} {Y Y' : C} (g : Y ⟶ Y') (f : (shrinkCoyoneda.obj X).obj Y) :
+    (shrinkCoyoneda.obj _).map g f =
+      shrinkCoyonedaObjObjEquiv.symm (shrinkCoyonedaObjObjEquiv f ≫ g) :=
+  rfl
+
+/-- The canonical initial object of `(shrinkCoyoneda.{w}.obj (op X)).Elements`, given
+by `𝟙 X : X ⟶ X`. -/
+noncomputable def shrinkCoyonedaElementsInitial [LocallySmall.{w} C] (X : C) :
+  (shrinkCoyoneda.{w}.obj (op X)).Elements :=
+    ⟨X, shrinkCoyonedaObjObjEquiv.symm (𝟙 X)⟩
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]: [CategoryTheory.Functor.Elements.isInitialOfCorepresentableBy](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Elements.html#CategoryTheory.Functor.Elements.isInitialOfCorepresentableBy)

File: Mathlib/CategoryTheory/ShrinkYoneda.lean [hunk 2]
```diff
@@ -249,4 +251,191 @@ def shrinkYonedaRepresentableBy (X : C) : (shrinkYoneda.{w}.obj X).Representable
...
+/-- `shrinkCoyoneda` is compatible with `uliftFunctor`. -/
+noncomputable
+def shrinkCoyonedaUliftFunctorIso [LocallySmall.{max w w'} C] :
+    shrinkCoyoneda.{w} ⋙ (Functor.whiskeringRight Cᵒᵖ _ _).obj uliftFunctor.{w', w} ≅
+      shrinkCoyoneda :=
+  NatIso.ofComponents
+    (fun X ↦ FunctorToTypes.shrinkCompUliftFunctorIso.{w, v} (coyoneda.obj X))
+    fun _ ↦ by ext; simp [shrinkCoyoneda]
+
+/-- `uliftYoneda` identifies to `shrinkCoyoneda`. -/
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/ShrinkYoneda.lean]:
```suggestion
/-- `uliftCoyoneda` identifies to `shrinkCoyoneda`. -/
```

File: Mathlib/CategoryTheory/Limits/Shapes/IsTerminal.lean [hunk 3]
```diff
@@ -359,6 +359,12 @@ def limitOfDiagramInitial {X : J} (tX : IsInitial X) (F : J ⥤ C) :
     simp_rw [← w X, coneOfDiagramInitial_π_app, tX.hom_ext (tX.to X) (𝟙 _)]
     simp
 
+lemma IsLimit.limitOfDiagramInitial_map {F G : J ⥤ C} {X : J} (hX : IsInitial X) (α : F ⟶ G) :
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Shapes/IsTerminal.lean]:
```suggestion
@[simp]
lemma IsLimit.limitOfDiagramInitial_map {F G : J ⥤ C} {X : J} (hX : IsInitial X) (α : F ⟶ G) :
```

File: Mathlib/CategoryTheory/Limits/Shapes/IsTerminal.lean [hunk 4]
```diff
@@ -359,6 +359,12 @@ def limitOfDiagramInitial {X : J} (tX : IsInitial X) (F : J ⥤ C) :
...
+    (limitOfDiagramInitial hX G).map (coneOfDiagramInitial hX F) α = α.app X := by
+  simp only [IsLimit.map, limitOfDiagramInitial, Cone.postcompose_obj_π, NatTrans.comp_app,
+    coneOfDiagramInitial_π_app, IsInitial.to_self, Functor.map_id]
+  exact Category.id_comp _
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Shapes/IsTerminal.lean]:
```suggestion
  refine (limitOfDiagramInitial hX G).hom_ext fun j ↦ ?_
  rw [IsLimit.map_π]
  simp
```

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 5]
```diff
@@ -0,0 +1,211 @@
...
+public import Mathlib.CategoryTheory.Limits.Elements
+public import Mathlib.CategoryTheory.Sites.GlobalSections
+public import Mathlib.CategoryTheory.Sites.Point.Skyscraper
+
+/-!
+# Local sites
+
+A site is called local if it has a terminal object whose only covering sieve is trivial -
+this makes it possible to define coconstant sheaves on it, giving its sheaf topos the structure
+of a local topos. This makes them an important stepping stone to cohesive sites.
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]:
```suggestion
of a local topos.
```

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 6]
```diff
@@ -0,0 +1,211 @@
...
+
+See https://ncatlab.org/nlab/show/local+site.
+
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]: Can you move that to a `## References` section below?

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 7]
```diff
@@ -0,0 +1,211 @@
...
+Sheaves of types on any local site form a local topos (i.e. a topos whose global sections functor
+has a fully faithful right adjoint), and a subcanonical site is local if and only if its topos of
+sheaves of types is.
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]:
```suggestion
sheaves of types is (see TODOs).
```

File: Mathlib/CategoryTheory/Limits/Shapes/Products.lean [hunk 8]
```diff
@@ -863,10 +874,23 @@ instance (priority := 100) hasCoproduct_unique [Nonempty β] [Subsingleton β] (
...
-@[simps!]
 def coproductUniqueIso [Unique β] (f : β → C) : ∐ f ≅ f default :=
   IsColimit.coconePointUniqueUpToIso (colimit.isColimit _) (colimitCoconeOfUnique f).isColimit
 
+@[simp]
+lemma coproductUniqueIso_inv [Unique β] (f : β → C) :
+    (coproductUniqueIso f).inv = Sigma.ι f default :=
+  rfl
+
+@[simp]
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Shapes/Products.lean]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Products.lean [hunk 9]
```diff
@@ -826,10 +826,21 @@ instance (priority := 100) hasProduct_unique [Nonempty β] [Subsingleton β] (f
...
 /-- A product over an index type with exactly one term is just the object over that term. -/
-@[simps!]
 def productUniqueIso [Unique β] (f : β → C) : ∏ᶜ f ≅ f default :=
   IsLimit.conePointUniqueUpToIso (limit.isLimit _) (limitConeOfUnique f).isLimit
 
+@[simp]
+lemma productUniqueIso_hom [Unique β] (f : β → C) : (productUniqueIso f).hom = Pi.π f default :=
+  rfl
+
+@[simp]
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Shapes/Products.lean]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Products.lean [hunk 10]
```diff
@@ -826,10 +826,21 @@ instance (priority := 100) hasProduct_unique [Nonempty β] [Subsingleton β] (f
...
 
 /-- A product over an index type with exactly one term is just the object over that term. -/
-@[simps!]
 def productUniqueIso [Unique β] (f : β → C) : ∏ᶜ f ≅ f default :=
   IsLimit.conePointUniqueUpToIso (limit.isLimit _) (limitConeOfUnique f).isLimit
 
+@[simp]
+lemma productUniqueIso_hom [Unique β] (f : β → C) : (productUniqueIso f).hom = Pi.π f default :=
+  rfl
+
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Shapes/Products.lean:835]: splice-bot maintainer merge

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 11]
```diff
@@ -0,0 +1,213 @@
...
+as taking any object `X : A` to the sheaf that sends each `Y : C` to the product over copies of `A`
+indexed by the points `⊤_ C ⟶ Y` of `Y`.
+
+Note this takes in an extra universe parameter `w` that does not appear in the output type
+`A ⥤ Sheaf J A` but is required for the construction; it should always be given explicitly when
+referring to this functor, as in e.g. `coconstantSheaf.{w} J A`. -/
+noncomputable def coconstantSheaf [HasProducts.{w} A] : A ⥤ Sheaf J A :=
+  (point.{w} J).skyscraperSheafFunctor
+
+variable [HasColimitsOfSize.{w, w, v', u'} A]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]:
```suggestion
variable [HasColimitsOfSize.{w, w} A]
```

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 12]
```diff
@@ -0,0 +1,213 @@
...
+    (ΓNatIsoSheafSections J A terminalIsTerminal).symm
+
+variable [HasProducts.{w} A] [HasWeakSheafify J A]
+
+/-- On local sites, the global sections functor `Γ` is left-adjoint to the coconstant functor. -/
+noncomputable def ΓCoconstantSheafAdj : Γ J A ⊣ coconstantSheaf.{w} J A :=
+  (point.{w} J).skyscraperSheafAdjunction.ofNatIsoLeft (pointSheafFiberIso J A)
+
+/-- On any locally `w`-small local site, the global sections functor to any category with colimits
+and products of size `w` is a left adulljoint. A variant of this without the universe parameter `w`
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]:
```suggestion
and products of size `w` is a left adjoint. A variant of this without the universe parameter `w`
```

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 13]
```diff
@@ -0,0 +1,213 @@
...
+is registered as an instance. -/
+lemma Γ_isLeftAdjoint : (Γ J A).IsLeftAdjoint :=
+  ⟨coconstantSheaf.{w} J A, ⟨ΓCoconstantSheafAdj J A⟩⟩
+
+/-- On any local site with morphism types in `Type v`, the global sections functor to any category
+with colimits and products of size `v` is a left adjoint. See `ΓIsLeftAdjoint` for a
+version for `w`-locally small sites that can't be registered as an instance because of the extra
+universe parameter `w`. -/
+instance (A : Type u') [Category.{v', u'} A] [HasColimitsOfSize.{v, v, v', u'} A]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]:
```suggestion
instance (A : Type u') [Category.{v', u'} A] [HasColimitsOfSize.{v, v} A]
```

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 14]
```diff
@@ -0,0 +1,213 @@
...
+
+lemma full_constantSheaf : (constantSheaf J A).Full :=
+  (fullyFaithfulConstantSheaf.{w} J A).full
+
+lemma faithful_constantSheaf : (constantSheaf J A).Faithful :=
+  (fullyFaithfulConstantSheaf.{w} J A).faithful
+
+/-- See `IsLocalSite.full_constantSheaf` for a version for `w`-locally small sites. -/
+instance {C : Type u} [Category.{v} C] (J : GrothendieckTopology C) [J.IsLocalSite]
+    (A : Type u') [Category.{v', u'} A] [HasColimitsOfSize.{v, v, v', u'} A]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]:
```suggestion
    (A : Type u') [Category.{v', u'} A] [HasColimitsOfSize.{v, v} A]
```

File: Mathlib/CategoryTheory/Sites/LocalSite.lean [hunk 15]
```diff
@@ -0,0 +1,213 @@
...
+    [HasProducts.{v} A] [HasWeakSheafify J A] : (constantSheaf J A).Full :=
+  full_constantSheaf.{v} J A
+
+/-- See `IsLocalSite.faithful_constantSheaf` for a version for `w`-locally small sites. -/
+instance {C : Type u} [Category.{v} C] (J : GrothendieckTopology C) [J.IsLocalSite]
+    (A : Type u') [Category.{v', u'} A] [HasColimitsOfSize.{v, v, v', u'} A]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/LocalSite.lean]:
```suggestion
    (A : Type u') [Category.{v', u'} A] [HasColimitsOfSize.{v, v} A]
```

**Comment by joelriou** [comment]
Thanks!

bors merge
